US05130335
5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoic acid
A mixture of 3.8 g (16.5 mmol) of 5,5,8,8-tetramethyl-2-acetyl-5,6,7,8-tetrahydronaphthalene from the preceding Example 3, 70 ml of 5.25% aqueous sodium hypochlorite (49 mmol), 25 ml of aqueous 2N NaOH and 30 ml of dioxane was heated at 60°-70° C. for 2 hours. The mixture was allowed to cool and the oily organic layer removed. Then the aqueous layer was washed with two portions of ether. The aqueous layer was then treated with sodium metabisulfite solution until the solution was negative to the potassium iodide/starch test. The aqueous layer was then cooled and acidified with H2SO4. The resultant white precipitate was collected by filtration and washed with water. This crude product was further purified by recrystallization from an ethanol/water mixture to give the title compound as a white, crystalline solid.

reactant | 5,5,8,8-tetramethyl-2-acetyl-5,6,7,8-tetrahydronaphthalene | 16.5 mmol, 3.8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)=O)C | C16H22O
reactant | sodium hypochlorite | 49 mmol, 70 ml | Cl[O-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)O)C | C15H20O2
